US04996218
2-[2-[(6-Bromohexyl)oxy]ethyl]benzoxazole
A mixture of 2-benzoxazoleethanol (1.46 g), 50% sodium hydroxide (3 ml), 1,6-dibromohexane (3 ml), TAB (100 mg) and dichloromethane (2 ml) was vigorously stirred at room temperature for 22 h, diluted with water (15 ml) and extracted with ether (40 ml). The organic phase was washed with brine (10 ml), dried and evaporated in vacuo. The residual oil was purified by FCC. Elution with hexane and hexane-ether (19:1) followed by hexane-ether (2:1) and ether gave the title compound as a pale yellow oil (1.60 g) which solidified on refrigeration.

reactant | 2-benzoxazoleethanol | 1.46 g | O1C(=NC2=C1C=CC=C2)CCO | C9H9NO2
reactant | sodium hydroxide | 3 ml | [OH-].[Na+]
reactant | 1,6-dibromohexane | 3 ml | BrCCCCCCBr | C6H12Br2
reactant | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | water | 15 ml | O | H2O
product | 2-[2-[(6-Bromohexyl)oxy]ethyl]benzoxazole | 1.60 g | BrCCCCCCOCCC=1OC2=C(N1)C=CC=C2 | C15H20BrNO2
